US04108857
The Grignard reagent prepared from magnesium (85.5 g.), benzyl chloride (407 g.) and ether (3020 ml.) was added to the slurry of 1-benzyl-3,4-diethylpyridinium chloride in benzene (2250 ml.). After refluxing the mixture was quenched in ice and ammonium chloride (453 g.). Ammonium hydroxide was added to the mixture. The ether layer was washed with water and concentrated. A solution of sodium borohydride (52 g.) in water (260 ml.) was added to a solution of the residue (712 g.) in ethanol (2 l.). The mixture was stirred, allowed to stand overnight and filtered. The filtrate was concentrated under vacuum. Water and ether were added to the residue. The ether layer was washed with water, dried and concentrated. The residue was distilled under vacuum. The main fractions darkened on exposure to air. Therefore, the sodium borohydride reduction was repeated excluding water. Sodium borohydride (42 g.) was added portionwise with stirring to a solution of the combined main fractions (517 g.) in ethanol (100%, 1 l.). The mixture was stirred for 6 hours, allowed to stand overnight and concentrated. Water and ether were added. The ether layer was washed with water, dried and concentrated. Since the reduction still appeared incomplete, it was repeated using dimethylformamide as the solvent. Sodium borohydride (40 g.) was added portionwise to a solution of the residue in dimethylformamide (1 l.). The mixture was stirred and allowed to stand overnight. Water was added and the mixture was extracted with ether. The ether extracts were washed with water, dried and concentrated. The residue was distilled under vacuum, affording 1,2-dibenzyl-3,4-diethyl-1,2,5,6-tetrahydropyridine (172 g., b.r. 154°-178° C./0.1 mm., mostly at 174° C.).

reactant | magnesium | 85.5 g | [Mg] | Mg
reactant | benzyl chloride | 407 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | ether | 3020 ml | CCOCC | C4H10O
reactant | 1-benzyl-3,4-diethylpyridinium chloride | [Cl-].C(C1=CC=CC=C1)[N+]1=CC(=C(C=C1)CC)CC
solvent | benzene | 2250 ml | C1=CC=CC=C1 | C6H6
product | 1,2-dibenzyl-3,4-diethyl-1,2,5,6-tetrahydropyridine | C(C1=CC=CC=C1)N1C(C(=C(CC1)CC)CC)CC1=CC=CC=C1 | C23H29N
